US05767131
4-(4,4-Diphenylpiperidin-1-yl)butyronitrile.
A suspension of 4,4-diphenylpiperidine (4.15 g, 17.5 mmol, 1.00 equiv), 4-bromobutyronitrile (2.10 mL, 21.0 mmol, 1.20 equiv, Aldrich), potassium carbonate (4.85 g, 35.0 mmol, 2.00 equiv), and potassium iodide (581 mg, 3.50 mmol, 0.20 equiv) in n-butanol (20 mL) and 1,4-dioxane (20 mL) was stirred at reflux under argon for 48 hours. The mixture was cooled to room temperature and concentrated. Water (50 mL) was added and the mixture was extracted with CH2Cl2 (4×150 mL). The combined organic solutions were dried over MgSO4 and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc) to afford 4.65 g (87%) of white solid, which was characterized spectroscopically.

reactant | 4,4-diphenylpiperidine | 17.5 mmol, 4.15 g, 1.00 equiv | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
reactant | 4-bromobutyronitrile | 21.0 mmol, 2.10 mL, 1.20 equiv | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 35.0 mmol, 4.85 g, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.50 mmol, 581 mg, 0.20 equiv | [I-].[K+]
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-(4,4-Diphenylpiperidin-1-yl)butyronitrile | 4.65 g, 87% | C1(=CC=CC=C1)C1(CCN(CC1)CCCC#N)C1=CC=CC=C1 | C21H24N2
